US07557105B2
4-[(3-Oxo-1-piperazinyl)methyl]benzoic acid
A mixture of 3-bromomethylbenzoic acid (4.30 g, 20 mmol), piperazin-2-one (2.0 g, 20 mmol) and powdered potassium carbonate (2.76 g, 20 mmol) in methanol (50 mL) is stirred for 17 hours at room temperature. The resulting mixture is filtered and the solvent is evaporated off under reduced pressure to give a residue which is treated with hydrochloric acid (80 mL of 0.25 M) and stirred for 5 min. The precipitated product is filtered, washed with water, dried and recrystallised from methanol to give the title compound as a cream crystalline solid.

reactant | 3-bromomethylbenzoic acid | 20 mmol, 4.30 g | BrCC=1C=C(C(=O)O)C=CC1 | C8H7BrO2
reactant | piperazin-2-one | 20 mmol, 2.0 g | N1C(CNCC1)=O | C4H8N2O
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 0.25 M, 80 mL | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
product | 4-[(3-Oxo-1-piperazinyl)methyl]benzoic acid | O=C1CN(CCN1)CC1=CC=C(C(=O)O)C=C1 | C12H14N2O3
